US04645765
To a solution of 4-formyl-6,9-dihydroxy-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate (30 mg) in methanol (3 ml) was added sodium borohydride (40 mg), and the mixture was stirred at room temperature for 1 hour. After evaporation of the solvent, the residue was subjected to column chromatography on non-ionic adsorption resin "Diaion HP-20" (Trade Mark, maker Mitsubishi Chemical Industries Ltd.). Elution was carried out with 50% methanol, and fractions containing the desired compound were collected. The solvent was evaporated off to give 6,9-dihydroxy-4-hydroxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate, which was dissolved in pyridine (1 ml). To this solution was added acetic anhydride (0.5 ml), and the resultant solution was allowed to stand at room temperature overnight. Removal of the solvent by using high vacuum pump gave an oil, which was subjected to preparative thin layer chromatography. Development was carried out with a mixture of methanol and chloroform (1:9, v/v) to afford 4-acetoxymethyl-11-acetyl-8-carbamoyloxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-6,9-diyl diacetate (12 mg).

reactant | 4-formyl-6,9-dihydroxy-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate | 30 mg | C(N)(OCC1C2=C(C=C(C=C2N2CC3NC3C1(O2)O)C=O)O)=O | C14H15N3O6
reactant | sodium borohydride | 40 mg | [BH4-].[Na+]
solvent | methanol | 3 ml | CO | CH4O
product | 6,9-dihydroxy-4-hydroxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-trien-8-ylmethyl carbamate | C(N)(OCC1C2=C(C=C(C=C2N2CC3NC3C1(O2)O)CO)O)=O | C14H17N3O6
